US09387200B2
a) 7-Hydroxy-3-methyl-4-pyrazin-2-yl-isothiazolo[4,5-c]pyridine-6-carboxylic acid butyl ester
The title compound was synthesized in analogy Example 3 from 4-bromo-7-hydroxy-3-methyl-isothiazolo[4,5-c]pyridine-6-carboxylic acid butyl ester and 2-(tributylstannyl)pyrazine: MS (m/z) 345.2 (M+1)+.

reactant | 4-bromo-7-hydroxy-3-methyl-isothiazolo[4,5-c]pyridine-6-carboxylic acid butyl ester | C(CCC)OC(=O)C1=C(C2=C(C(=N1)Br)C(=NS2)C)O | C12H13BrN2O3S
reactant | 2-(tributylstannyl)pyrazine | C(CCC)[Sn](C1=NC=CN=C1)(CCCC)CCCC
product | 7-Hydroxy-3-methyl-4-pyrazin-2-yl-isothiazolo[4,5-c]pyridine-6-carboxylic acid butyl ester | C(CCC)OC(=O)C1=C(C2=C(C(=N1)C1=NC=CN=C1)C(=NS2)C)O | C16H16N4O3S
